US08466133B2
3-Methyl-6-hexyl-1,4-dioxane-2,5-dione (5) (hexyl-substituted lactide)
2.5 g 2-hydroxyoctanoic acid (15.6 mmol) and 1.75 mL 2-bromopropionyl bromide (16.3 mmol) were stirred at 80° C. under nitrogen for 12 h. 150 mL acetone and 4.35 mL anhydrous triethylamine (31 mmol) were added to the mixture and the solution was stirred for 3 h at 60° C. After filtration of the triethylammonium bromide salts, acetone was distilled off and the resulting mixture was dissolved in 250 mL ethyl acetate:hexane mixture (1:2). After filtration over silica gel the solvents were distilled off, and the remaining crude product was recrystallized from hexane. 1H NMR (500 MHz, CDCl3): δ 5.00 (q, 1H), 4.89 (dd, 1H), 1.9-2.15 (br m, 2H), 1.70 (d), 1.66 (d), (3H, of 2 diastereoisomers), 1.45-1.65 (br m, 2H), 1.25-1.40 (br m, 6H), 0.90 (t, 3H). 13C NMR (500 MHz, CDCl3): δ 167.53, 166.90. 166.26, 165.87, 75.80, 72.49, 72.25, 31.92, 31.45, 31.39, 30.00, 28.73, 28.50, 24.60, 24.29, 22.48, 22.44, 17.54, 15.83, 14.00. ELEM. ANAL. Calcd. for C11H18O4: C, 61.68; H, 8.41. Found: C, 61.63; H, 8.48. Yield: 45%.

reactant | 2-hydroxyoctanoic acid | 15.6 mmol, 2.5 g | OC(C(=O)O)CCCCCC | C8H16O3
reactant | 2-bromopropionyl bromide | 16.3 mmol, 1.75 mL | BrC(C(=O)Br)C | C3H4Br2O
reactant | triethylamine | 31 mmol, 4.35 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3-Methyl-6-hexyl-1,4-dioxane-2,5-dione | Yield: 45% | CC1C(OC(C(O1)=O)CCCCCC)=O | C11H18O4
